US07304057B2
Synthesis of 2-{[(3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carbonyl]amino}-3-methyl-butyric acid benzyl ester
0.301 g (1 mmol) of (3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carboxylic acid, 0.417 g (1.1 mmol) of L-valine benzyl ester p-toluenesulfonic acid salt, 0.227 g (1.2 mmol) of DCC and 0.122 g (1 mmol) of DMAP were dissolved in 30 mL of CH2Cl2, 0.2 ml (1.4 mmol) of TEA was added. The mixture was stirred for 24 h at room temperature. The solid was filtrated and the solvent was evaporated. The residual was dissolved in a suitable amount of ethyl acetate (20 ml) and then the mixture was filtered to remove insoluble substance. The ethyl acetate was added to 60 ml and then the liquid was washed with 10% NaHCO3 solution, saturated NaCl solution and dried over Na2SO4. After the drying agent was removed and part of ethyl acetate was evaporated, the crude product was purified by flash column chromatography (eluent: CH2Cl2:CH3Cl=1:1) to obtain the product as a glassy solid (0.20 g).

reactant | (3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carboxylic acid | 1 mmol, 0.301 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](CSCC1)C(=O)O)C | C12H15NO4S2
reactant | L-valine benzyl ester p-toluenesulfonic acid salt | 1.1 mmol, 0.417 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)C(C)C)=O
reactant | DCC | 1.2 mmol, 0.227 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 1 mmol, 0.122 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-{[(3R)-4-(4-toluenesulfonyl)thiomorpholine-3-carbonyl]amino}-3-methyl-butyric acid benzyl ester | 0.20 g | C(C1=CC=CC=C1)OC(C(C(C)C)NC(=O)[C@H]1N(CCSC1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C24H30N2O5S2
